US06821988B2
N-{4-[4-(Benzyloxy)-3-chloroanilino]-3-cyano-7-ethoxy-6-quinolinyl}6-chloro-2-hexenamide
To a stirred solution of 6-amino-4-[4-(benzyloxy)-3-chloroanilino]-7-ethoxy-3-quinolinecarbonitrile (0.89 g, 2.0 mmol) and diisopropylethylamine (0.47 ml, 2.7 mmol) in 16 ml of tetrahydrofuran at 0° C. was added a freshly-prepared solution of 6-chloro-2-hexenoyl chloride in 4 ml of tetrahydrofuran during 30 s. The mixture was then stirred at 25° C. for 2.5 h and partitioned between ethyl acetate and water. The organic layer was washed with water, dried and concentrated. The residue was chromatographed on silica gel with methylene chloride-ethyl acetate to give 0.83 g of amber solid; mass spectrum (electrospray, m/e) 574.8 (M+H)+.

reactant | 6-amino-4-[4-(benzyloxy)-3-chloroanilino]-7-ethoxy-3-quinolinecarbonitrile | 2.0 mmol, 0.89 g | NC=1C=C2C(=C(C=NC2=CC1OCC)C#N)NC1=CC(=C(C=C1)OCC1=CC=CC=C1)Cl | C25H21ClN4O2
reactant | diisopropylethylamine | 2.7 mmol, 0.47 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 6-chloro-2-hexenoyl chloride | ClCCCC=CC(=O)Cl | C6H8Cl2O
solvent | tetrahydrofuran | 16 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | N-{4-[4-(Benzyloxy)-3-chloroanilino]-3-cyano-7-ethoxy-6-quinolinyl}6-chloro-2-hexenamide | 0.83 g | C(C1=CC=CC=C1)OC1=C(C=C(NC2=C(C=NC3=CC(=C(C=C23)NC(C=CCCCCl)=O)OCC)C#N)C=C1)Cl | C31H28Cl2N4O3
